2119-02-15 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2119-2-15**] 06:18 AM
   .
   After taking sips of ice water this morning, bright red blood noted
   drooling out of patient mouth. Oral cavity suctioned and rinsed until
   no further bleeding noted. Poor visualization of posterior oropharynx
   yesterday so ?blood clot collected there and remanifested with sips of
   water.
   .
   IR aware of patient. Given no active bleeding currently, holding on
   embolization
   .
   Did not get PO medications yesterday night as patient too lethargic to
   safely take them (also got 0.5mg IV Ativan). Also put in restraints
   briefly for picking at nasal packing
   Allergies:
   Codeine
   Unknown;
   Meperidine
   Unknown;
   Ace Inhibitors
   Unknown;
   Hydrocodone
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-2-14**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-2-15**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 99 (79 - 105) bpm
   BP: 168/46(76) {128/41(67) - 168/91(96)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
 room air
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   263 K/uL
   11.7 g/dL
   126 mg/dL
   4.1 mg/dL
   27 mEq/L
   4.0 mEq/L
   21 mg/dL
   103 mEq/L
   144 mEq/L
   37.0 %
   13.5 K/uL
        [image002.jpg]
   Blood culture X1 NGTD
                             [**2119-2-14**]  08:42 PM
                             [**2119-2-15**]  05:19 AM
   WBC
   13.6
   13.5
   Hct
   34.5
   37.0
   Plt
   251
   263
   Cr
   4.1
   Glucose
   126
   Other labs: PT / PTT / INR:12.6/24.7/1.1, Differential-Neuts:88.9 %,
   Lymph:6.9 %, Mono:3.5 %, Eos:0.4 %, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   78 F with ESRD, CAD, PVD, prior CVA, known PFO, COPD, transferred with
   recurrent epistaxis
   .
   # Epistaxis- in setting of dual antiplatelet and anticoagulant therapy
   initially. Patient re-bled yesterday AM in setting of INR 1.2, upon
   evaluation by ENT here in the ICU she was not bleeding. Blood elicited
   from posterior oropharynx this morning, ?blood clot vs. re-bleed
   - maximize BP control, aim to SBP 100-110 per ENT (will get PO
   medications today for better control)
   - empiric cephazolin with HD
   - keep vaseline gauze dressing around alar to prevent necrosis
   - plan to remove packing in 5 days, aiming for Monday with IR available
   in the event of bleed
   - type and screen
   - For patient [**Last Name (LF) **], [**First Name3 (LF) **] start standing Tylenol and oxycodone for
   PRN pain; will also request Nutrition consult and likely start patient
   on TPN over the week/weekend given nasal packing making it
   uncomfortable and difficult for patient to take in PO
   - Switch difficult to ingest pills to IV for now
   .
   # ESRD- TRS schedule, dialyzed yesterday
   - continue renal meds
   - consult HD renal team in AM
   .
   # Recent candidemia- continue fluconazole with HD
   - culture if spikes
   - Also question of an aortic mass per patient
s daughter on a previous
   ECHO. Will order repeat ECHO today to evaluate
   .
   # CAD- continue statin and lopressor
   - hold ASA, hold Plavix for now (stents placed >1 year ago)
   .
   # HTN- continue home meds
   .
   # h/o CVA- hold anticoagulants and antiplatelets given epistaxis
   recently
   .
   # h/o COPD- not on any inhalers, monitor
   - Start albuterol/ipratroprium and Advair MDI
   .
   # Child seizures- continue daily Keppra
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   Daughter [**First Name4 (NamePattern1) 319**] [**Known lastname 2269**], MD and son are HCP. Daughter's phone numbers:
   [**Telephone/Fax (3) 13166**]
   # Code:  DNR/DNi but ok for elective intubation
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Consult and likely TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-2-14**] 07:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU
 .H/O EPISTAXIS (NOSEBLEED)

2119-02-16 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2119-2-15**] 02:30 PM
   [**2-15**]:
   - Updated daughter regarding plan for patient. Other HCP, son [**Name (NI) 453**]
   coming to hospital to visit. Daughter inquiring about the amount of
   heparin being used at [**Hospital6 **] HD because epistaxis occurs
   every night following HD at [**Hospital3 **] (not so much with her
   outpatient [**Location (un) **] of [**Location (un) 873**]).
   - Hct 37 in AM -> 34.5 at 4pm -> 37
   -          pulled nasal packing but not balloon at 0730
   -          getting HD
   Allergies:
   Codeine
   Unknown;
   Meperidine
   Unknown;
   Ace Inhibitors
   Unknown;
   Hydrocodone
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2119-2-15**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-2-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 100 (66 - 104) bpm
   BP: 134/44(94) {90/31(49) - 169/72(94)} mmHg
   RR: 18 (10 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    590 mL
                                                                    177 mL
   PO:
                                                                    540 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   316 K/uL
   11.6 g/dL
   136 mg/dL
   5.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   29 mg/dL
   103 mEq/L
   144 mEq/L
   37.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2119-2-14**]  08:42 PM
                             [**2119-2-15**]  05:19 AM
                             [**2119-2-15**]  04:30 PM
                             [**2119-2-16**]  12:20 AM
   WBC
   13.6
   13.5
   13.9
   Hct
   34.5
   37.0
   34.4
   37.0
   Plt
   [**Telephone/Fax (3) 13213**]
   Cr
   4.1
   5.0
   Glucose
   126
   136
   Other labs: PT / PTT / INR:12.7/25.0/1.1, Differential-Neuts:88.9 %,
   Lymph:6.9 %, Mono:3.5 %, Eos:0.4 %, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O EPISTAXIS (NOSEBLEED)
   78 F with ESRD, CAD, PVD, prior CVA, known PFO, COPD, transferred with
   recurrent epistaxis
   .
   # Epistaxis- in setting of dual antiplatelet and anticoagulant therapy
   initially. Patient re-bled yesterday AM in setting of INR 1.2, upon
   evaluation by ENT here in the ICU she was not bleeding. Blood elicited
   from posterior oropharynx this morning, ?blood clot vs. re-bleed
   - maximize BP control, aim to SBP 100-110 per ENT (will get PO
   medications today for better control)
   - empiric cephazolin with HD
   - keep vaseline gauze dressing around alar to prevent necrosis
   - plan to remove packing in 5 days, aiming for Monday with IR available
   in the event of bleed
   - type and screen
   - For patient [**Last Name (LF) **], [**First Name3 (LF) **] start standing Tylenol and oxycodone for
   PRN pain; will also request Nutrition consult and likely start patient
   on TPN over the week/weekend given nasal packing making it
   uncomfortable and difficult for patient to take in PO
   - Switch difficult to ingest pills to IV for now
   .
   # ESRD- TRS schedule, dialyzed yesterday
   - continue renal meds
   - consult HD renal team in AM
   .
   # Recent candidemia- continue fluconazole with HD
   - culture if spikes
   - Also question of an aortic mass per patient
s daughter on a previous
   ECHO. Will order repeat ECHO today to evaluate
   .
   # CAD- continue statin and lopressor
   - hold ASA, hold Plavix for now (stents placed >1 year ago)
   .
   # HTN- continue home meds
   .
   # h/o CVA- hold anticoagulants and antiplatelets given epistaxis
   recently
   .
   # h/o COPD- not on any inhalers, monitor
   - Start albuterol/ipratroprium and Advair MDI
   .
   # Child seizures- continue daily Keppra
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   Daughter [**First Name4 (NamePattern1) 319**] [**Known lastname 2269**], MD and son are HCP. Daughter's phone numbers:
   [**Telephone/Fax (3) 13166**]
   # Code:  DNR/DNi but ok for elective intubation
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-2-14**] 07:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2119-02-16 09:51:00 Physician Attending Progress Note
Chief Complaint: Epistaxis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No bleeding. Attempted to pull out packing
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2119-2-15**] 02:30 PM
   History obtained from Medical records
   Allergies:
   Codeine
   Unknown;
   Meperidine
   Unknown;
   Ace Inhibitors
   Unknown;
   Hydrocodone
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2119-2-15**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, No(t) Daytime
   somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-2-16**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.3
C (95.5
   HR: 100 (66 - 104) bpm
   BP: 119/48(65) {90/31(49) - 162/57(94)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    590 mL
                                                                    198 mL
   PO:
                                                                    540 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Packing
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2-3/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 0, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   316 K/uL
   143 mg/dL
   6.8 mg/dL
   21 mEq/L
   4.1 mEq/L
   50 mg/dL
   101 mEq/L
   143 mEq/L
   37.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2119-2-14**]  08:42 PM
                             [**2119-2-15**]  05:19 AM
                             [**2119-2-15**]  04:30 PM
                             [**2119-2-16**]  12:20 AM
   WBC
   13.6
   13.5
   13.9
   Hct
   34.5
   37.0
   34.4
   37.0
   Plt
   [**Telephone/Fax (3) 13213**]
   Cr
   4.1
   5.0
   6.8
   Glucose
   126
   136
   143
   Other labs: PT / PTT / INR:12.7/25.0/1.1, Differential-Neuts:88.9 %,
   Lymph:6.9 %, Mono:3.5 %, Eos:0.4 %, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O EPISTAXIS (NOSEBLEED)
   No further bleeding. Now off coumadin, ASA, Plavyx. Will discuss
   management with ENT. Plan to leave packing in place for 5 d.  If she
   bleeds will add DDAVP and PLts.
   ICU Care
   Nutrition:
   Comments: TPN to start today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2119-2-14**] 07:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill